US07897619B2
To 25 mL of round-bottom flask was added N-((S)-3-(1H-indol-3-yl)-1-(3-(isoquinolin-6-yl)isoxazol-5-ylamino)propan-2-yl)-4-nitrobenzenesulfonamide (75 mg, 132 μmol), 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine (20 mg, 132 μmol) (commercially available from Aldrich), 2-mercaptoethanol (10 mg, 132 μmol) and 2 mL of DMF. After 2 hours, the reaction mixture was directly purified by preparative LC to give N-((S)-2-amino-3-(1H-indol-3-yl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine (38 mg, 75% yield). MS m/z: 384 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 9.69 (s, 1H), 8.61 (d, J=6.26 Hz, 1H), 8.48 (d, J=8.61 Hz, 1H), 8.37-8.42 (m, 2H), 8.18 (dd, J=8.71, 1.27 Hz, 1H), 7.63 (d, J=7.82 Hz, 1H), 7.46 (d, J=8.22 Hz, 1H), 7.29 (s, 1H), 7.20 (t, J=7.53 Hz, 1H), 7.08 (t, J=7.43 Hz, 1H), 3.81-3.83 (m, 1H), 3.60-3.63 (m, 1H), 3.46-3.54 (m, 1H), 3.20 (d, J=7.24 Hz, 2H),

reactant | N-((S)-3-(1H-indol-3-yl)-1-(3-(isoquinolin-6-yl)isoxazol-5-ylamino)propan-2-yl)-4-nitrobenzenesulfonamide | 132 μmol, 75 mg | N1C=C(C2=CC=CC=C12)C[C@@H](CNC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C29H24N6O5S
reactant | 2,3,4,6,7,8,9,10-octahydropyrimido[1,2-a]azepine | 132 μmol, 20 mg | N=1CCCN2C1CCCCC2 | C9H16N2
reactant | 2-mercaptoethanol | 132 μmol, 10 mg | SCCO | C2H6OS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-((S)-2-amino-3-(1H-indol-3-yl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine | 38 mg, 75% yield | N[C@H](CNC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)CC1=CNC2=CC=CC=C12 | C23H21N5O
